US07943551B2
Step 1: Synthesis of methyl 4-chloro-3-(dimethylaminothiocarbonyloxy)-2-methylbenzoate
Under an atmosphere of nitrogen, 12.3 g (109.7 mmol) of 1,4-diazabicyclo[2.2.2]-octane and then 13.6 g (109.7 mmol) of dimethylaminothiocarbonyl chloride were added to 11.0 g (54.8 mmol) of methyl 4-chloro-3-hydroxy-2-methylbenzoate (synthesis described in DE 10039723) in 200 ml of DMF. The mixture was stirred at RT for 16 h and, for work-up, poured into ice-water. The product precipitated and was removed by filtration. The residue was washed with 1M HCl. This gave 14.7 g of pure product.

reactant | 1,4-diazabicyclo[2.2.2]-octane | 109.7 mmol, 12.3 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylaminothiocarbonyl chloride | 109.7 mmol, 13.6 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | methyl 4-chloro-3-hydroxy-2-methylbenzoate | 54.8 mmol, 11.0 g | ClC1=C(C(=C(C(=O)OC)C=C1)C)O | C9H9ClO3
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 4-chloro-3-(dimethylaminothiocarbonyloxy)-2-methylbenzoate | ClC1=C(C(=C(C(=O)OC)C=C1)C)OC(=S)N(C)C | C12H14ClNO3S
